US04578390
A mixture of 15.2 g 2-hydroxy-5-methoxy benzaldehyde, 93 g of aniline and 100 ml of methanol was stirred at 25° for 20 hours. The mixture was then cooled with an ice-bath and stirred, and 3.9 g of sodium borohydride was added slowly. The mixture was stirred for 1 hour at 25°, 150 ml of water was added and the pH was adjusted to 7.0 with 2.5N hydrochloric acid. The resultant solid was collected, washed with water and purified by chromatography on silica gel using 3:17 ethyl acetate:n-hexane as an eluant. A 17.7 g yield of N-(2-hydroxy-5-methoxybenzyl)aniline was obtained. M.p. 82°-84°.

reactant | 2-hydroxy-5-methoxy benzaldehyde | 15.2 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | aniline | 93 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium borohydride | 3.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2.5N | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | N-(2-hydroxy-5-methoxybenzyl)aniline | OC1=C(CNC2=CC=CC=C2)C=C(C=C1)OC | C14H15NO2
